US07524871B2
Step 4: Synthesis of (±)-2-[3-{[(2-chloro-4 -fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)-pyridinyl]-N-(4,5,6,7-tetrahydro-2H-indazol-5 -ylmethyl)acetamide
The title compound was prepared from 2-[3-{[(2-chloro-4-fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)pyridinyl]acetic acid and 4,5,6,7-tetrahydro-2H-indazol-5-ylmethanamine dihydrochloride using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a white solid compound.

reactant | 2-[3-{[(2-chloro-4-fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)pyridinyl]acetic acid | ClC1=C(CS(=O)(=O)NC=2C(N(C(=CC2)C)CC(=O)O)=O)C=CC(=C1)F | C15H14ClFN2O5S
reactant | 4,5,6,7-tetrahydro-2H-indazol-5-ylmethanamine dihydrochloride | Cl.Cl.N=1NC=C2CC(CCC12)CN
product | (±)-2-[3-{[(2-chloro-4 -fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)-pyridinyl]-N-(4,5,6,7-tetrahydro-2H-indazol-5 -ylmethyl)acetamide | ClC1=C(CS(=O)(=O)NC=2C(N(C(=CC2)C)CC(=O)NCC2CC3=CNN=C3CC2)=O)C=CC(=C1)F | C23H25ClFN5O4S
